US07470723B2
To a stirred solution of cyanomethylphosphonic acid diethyl ester (1.3 mL, 8.3 mmol) in THF (20 mL) in an ice bath was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 8.3 mL, 8.3 mmol) dropwise. The mixture was stirred at room temperature for 40 min. A solution of (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone from above in THF (10 mL) was added to the mixture. The mixture was refluxed for 4 h. The solution was poured into ice water (30 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers was washed with water (50 mL), sodium hydrogen carbonate (50 mL, sat), brine (50 mL) and dried over magnesium sulfate. Removal of solvent and chromatography (Silica Gel) gave a mixture of (E/Z) 3-(3-ethoxy-4-methoxy-phenyl)-3-(4-methoxy-3-methyl-phenyl)-acrylonitrile as a white solid (0.97 g, 75% yield) (isomer ratio is 1:0.8 by HNMR): mp: 86-88° C.; 1H NMR (DMSO-d6) δ 1.30 (t, J=7 Hz, 3H, CH3), 2.13 (s, 3H, CH3), [2.17 (s)], 3.78 (s, 3H, CH3), 3.82 (s, 3H, CH3), [3.83 (s), 3.86 (s)], 3.93-4.04 (m, 2H, CH2), 6.01 (s, 1H, CH), [6.08 (s)], 6.72-7.26 (m, 6H, Ar); 13C NMR (DMSO-d6) 14.56, 14.59, 15.98, 63.77, 92.10, 92.42, 110.04, 110.18, 111.35, 111.51, 112.27, 113.83, 118.92, 122.27, 122.35, 125.61, 125.86, 128.05, 128.60, 128.92, 129.44, 130.14, 130.35, 130.82, 131.29, 147.36, 147.78, 150.15, 151.02, 158.44, 159.28, 161.47, 161.53; Anal. Calcd for C20H21NO3: C, 74.28; H, 6.55; N, 4.33. Found: C, 74.16; H, 6.48; N, 4.30.

reactant | cyanomethylphosphonic acid diethyl ester | 8.3 mmol, 1.3 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 8.3 mmol, 1.0 M, 8.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)C | C18H20O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(3-ethoxy-4-methoxy-phenyl)-3-(4-methoxy-3-methyl-phenyl)-acrylonitrile | 0.97 g, 75% yield | C(C)OC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)C | C20H21NO3
